US04224438
5 g of adenosine-5'-carboxylic acid methyl ester are suspended in 150 ml of methanol mixed with 20 ml of hydrazine hydrate and heated to the boil. The ester thereby goes into solution, while, almost simultaneously, the hydrazide precipitates out in the form of a fine crystalline material. After standing overnight, it is filtered off with suction, washed with methanol and dried. There are obtained 4.4 g of adenosine-5'-carboxylic acid hydrazide, which melts, with decomposition, at 270°-272° C. The yield is 93% of theory. The compound can be readily recrystallized from hot water.

reactant | adenosine-5'-carboxylic acid methyl ester | 5 g | COC(=O)C([C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O)O | C12H15N5O6
reactant | hydrazine hydrate | 20 ml | O.NN
solvent | methanol | 150 ml | CO | CH4O
product | adenosine-5'-carboxylic acid hydrazide | 4.4 g, yield is 93% | [C@@H]1([C@H](O)[C@H](O)[C@@H](C(O)C(=O)NN)O1)N1C=NC=2C(N)=NC=NC12 | C11H15N7O5
